Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
___ bone marrow biopsy

 
History of Present Illness:
___ yo male with Alzheimer's dementia, atrial fibrillation on
rivaroxaban, HTN, remote prostate cancer s/p brachytherapy, who
was brought in for evaluation of fatigue and change in behavior.

Patient is an unreliable historian because of progressive
dementia, so the following history is obtained via review of the
medical record and history given by his daughter, ___, present
at bedside.  ___ reports that the patient is living
independently, but due to progressive dementia, she has been in
the process of working with social services, elder services, and
case management as an outpatient, in an attempt to provide him
more support.  Prior to this past week, the patient had been
managing his ADLs, but his daughter is managing his ___ i.e.
paying bills and managing his household.  The patient walks ___
miles daily.  He has been noted to wander outside the home on a
few occasions.  She states that his appetite has been poor and
inconsistent - he usually gets his meals at adult daycare during
the day, then TV dinners in the evenings, which he prepares
himself.  For the past week, ___ noted a decline in her 
father's
condition.  He has been napping most of the time, not attending
his adult day care, not shaving, and demonstrating more of a
shuffling gait, no longer going on his long walks.  She states
that his neighbors found that her father had taken his clothes
off, was warm to the touch, and confused, so they called ___ and
referred him for evaluation at ___.  

At ___, initial labs notable for WBC 1.3 H/H 6.6/19. 
Guaiac negative.  He was transferred to ___ for evaluation of
new onset neutropenia and anemia.

Patient complains only of constipation for the past ___ days
(chronic complaint per daughter).  ___ states that the patient
has not had any recent illnesses - no respiratory symptoms,
muscle aches, dysuria.  No new medications.  No alcohol use.  
 
ROS: Full 10 point ROS otherwise negative in detail
 
Past Medical History:
Dementia
Atrial fibrillation on Xarelto
HTN
GERD
Prostate cancer s/p brachytherapy
Herniorrhaphy
 
Social History:
___
Family History:
- No family history of leukemia  
 
Physical Exam:
DISCHARGE PHYSICAL EXAM 
Vitals: T 97.5 BP 96 / 56 HR 67 RR 18 O2 sat 99 RA 
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, ___ systolic murmur, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, oriented to name and in hospital, 
not year. Easily confused. Baseline dementia
Skin: No rash or ecchymosis
Psych: advanced dementia
 
Pertinent Results:
Labs prior to admission:
Last CBC in our system --> 6.6>41.3<167

Labs on admission:
Heme
___ 11:15PM BLOOD WBC-1.3*# RBC-1.94*# Hgb-7.0*# Hct-20.3*# 
MCV-105*# MCH-36.1*# MCHC-34.5 RDW-18.2* RDWSD-66.6* Plt ___
___ 11:15PM BLOOD Neuts-39 Bands-2 ___ Monos-3* Eos-0 
Baso-0 Atyps-6* ___ Myelos-0 Other-0 AbsNeut-0.53* 
AbsLymp-0.73* AbsMono-0.04* AbsEos-0.00* AbsBaso-0.00*
___ 11:15PM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-OCCASIONAL Microcy-1+ Polychr-OCCASIONAL Ellipto-1+

Chem
___ 11:15PM BLOOD Glucose-103* UreaN-21* Creat-1.1 Na-137 
K-4.1 Cl-101 HCO3-26 AnGap-14
___ 11:15PM BLOOD ALT-6 AST-11 LD(LDH)-199 AlkPhos-61 
TotBili-0.8 DirBili-0.3 IndBili-0.5
___ 11:15PM BLOOD cTropnT-<0.01
___ 11:15PM BLOOD Albumin-3.8
___ 11:28PM BLOOD Lactate-1.1

Imaging on admission: None

EKG on admission: Atrial fibrillation with normal ventricular 
response. Diffuse scooped ST depressions.

DIAGNOSIS:
ACUTE MYELOID LEUKEMIA WITH MYODYSPLASIA-RELATED CHANGES. SEE 
NOTE.
Note: Correlation with cytogenetics (___-___) and flow 
cytometry (___) studies is
recommended. Ringed sideroblasts comprise 30% of erythroblasts

PATHOLOGY:
Note: Correlation with cytogenetics (___-___) and flow 
cytometry (___) studies is
recommended. Ringed sideroblasts comprise 30% of erythroblasts.
MICROSCOPIC DESCRIPTION
Peripheral blood smear:
The smears are adequate for evaluation. Erythrocytes are 
markedly decreased in number,
normochromic and have slight anisopoikilocytosis. Occasional 
elliptocytes, dacrocytes, and
polychromatophilic cell are seen. The white blood cell count is 
markedly decreased. The platelet
count appears is normal. Occasional large and giant platelets 
are seen. A limited 100 cell
differential shows 39% neutrophils, 50% lymphocytes, 5% 
monocytes, 1% eosinophils, and 4%
blasts.
Bone marrow aspirate:
The aspirate material is adequate for evaluation and consists of 
multiple cellular spicules. The M:E
ratio estimate is 2:1. Erythroid precursors are normal in number 
and exhibit overall slight dyspoietic
maturation. Occasional cells with irregular nuclear contours 
seen. Myeloid precursors are normal in
number. A major proportion of myeloid cells are blast. The 
maturing myeloid show mild dyspoietic
maturation with occasional cells with abnormal nuclear 
segmentation. Megakaryocytes are normal in
number. Abnormal forms are seen including occasional 
micromegakaryocytes and cells with widely
spaced and disjointed nuclei. A limited 300 cell differential 
shows 48% blasts, 8% promyelocytes,
8% myelocytes, 2% metamyelocytes, 2% bands/neutrophils and 32% 
erythroids.

CYTOGENETICS:
INTERPRETATION/COMMENT: 75% of the metaphase bone marrow cells 
examined had complex
abnormal karyotypes with 7q-, 20q-, monosomy 17 which FISH has 
confirmed has resulted in
deletion of the TP53 gene, and numerous other chromosome 
aberrations. These findings are
consistent with myelodysplasia or acute myeloid leukemia with an 
unfavorable prognosis.
FISH: POSITIVE for DELETION 7q31 and 20q12. 85% of the 
interphase bone marrow cells
examined had a probe signal pattern consistent with deletion 
7q31 and 20% had a pattern consistent
with deletion 20q12. There was no evidence of deletion 5q31 and 
trisomy 8. In myelodysplastic
syndrome these findings are associated with an unfavorable 
prognosis.
Uncultured cells for fluorescence in situ hybridization (FISH) 
analysis with the ___ Molecular EGR1 dual color probe
set: SpectrumOrange directly labeled probe for the EGR1 gene on 
5q31 and SpectrumGreen directly labeled probe for
D5S23/D5S721 on 5p15.2. This probe combination detects deletions 
of the 5q31 region, as well as monosomy 5.
FINDINGS: A total of 200 interphase nuclei were examined with 
the EGR1 and D5S23/D5S721 dual color probe set and
fluorescence microscopy. 199 cells (99.5%) had the normal 2 red 
and 2 green signals. 1 cell (0.5%) had 1 red signal
and 2 green signals. Normal cut-off values for this probe set 
include: 89% for the normal 2 red and 2 green signal
pattern and 6% for a 1 red and 2 green pattern. nuc 
ish(EGR1,D5S23/D5S721)x2[200]
A second hybridization was performed with the ___ Molecular 
D7S522 and CEP7 dual color probe set:
SpectrumOrange directly labeled D7S522 probe for the 7q31 region 
and SpectrumGreen directly labeled probe for the
centromeric region of chromosome 7. This probe combination 
detects deletions of the 7q31 region, as well as
monosomy 7.
FINDINGS: A total of 200 interphase nuclei were examined with 
the D7S522 and CEP7 dual color probe set and
fluorescence microscopy. 30 cells (15%) had the normal 2 red and 
2 green signals. 170 cells (85%) had 1 red signal
and 2 green signals. Normal cut-off values for this probe set 
include: 89% for the normal 2 red and 2 green signal
pattern and 4% for a 1 red and 2 green pattern. nuc 
ish(D7S522x1,CEP7x2)[170/200]
A third hybridization was performed with the ___ Molecular 
CEP8 and D20S108 dual color probe set: SpectrumGreen
directly labeled CEP8 probe for the centromeric region of 
chromosome 8 and SpectrumOrange directly labeled D20S108
probe for the 20q12 region of chromosome 20. This probe 
combination detects trisomy 8 and 20q-, which are commonly
observed in myeloid neoplasms.
FINDINGS: A total of 200 interphase nuclei were examined with 
the CEP8 and D20S108 dual color probe set and
fluorescence microscopy. 160 cells (80%) had the normal 2 red 
and 2 green signals. 40 cells (20%) had 2 green signals
and 1 red signal. Normal cut-off values for this probe set 
include: 90% for the normal 2 green and 2 red signal pattern
and 6% for a 2 green and 1 red pattern. nuc 
ish(CEP8x2,D20S108x1)[40/200]
 
Brief Hospital Course:
___ yo male with Alzheimer's dementia, atrial fibrillation on
rivaroxaban, HTN, remote prostate cancer s/p brachytherapy, who
was brought in for evaluation of fatigue and decline and
functional status, found to have new onset neutropenia and 
anemia.  

# Acute myeloid leukemia
# Neutropenia / anemia
CBC was normal in ___ and CBC dating back to ___ without
history of anemia or neutropenia, suggesting an acute/subacute
onset.  He was transfused 1 unit PRBCs on admission.  He was 
found to have circulating blasts on his peripheral blood smear.  
He underwent bone marrow biopsy under sedation.  Preliminary 
diagnosis per heme-path is acute myeloid leukemia.  This 
portends a poor prognosis and his life expectancy is limited to 
weeks.  His poor functional status and advanced dementia make 
him a poor candidate for chemotherapy, and his family does not 
feel it would be within his goals of care
to pursue treatment.  

Patient was previously living independently in senior housing. 
It is clear he was no longer safe to return home, so he was 
discharged to a hospice/extended care facility ___ 
___

# Dementia w/ behavioral disturbances
# Fatigue
# Generalized weakness
Patient has demonstrated a trajectory of decline, which was 
likely precipitated by acute leukemia.    CT head negative at 
___.  Infectious workup was unrevealing - urinalysis was 
negative, chest x-ray demonstrated interstitial lung disease and 
could not exclude superimposed pneumonia but no fever, cough.  
He was given haldol PRN severe agitation Plan for hospice and 
control of symptoms. 

Life expectancy is weeks to months with this high grade AML. 
Please do not anti-coagulate as patient is high risk for bleed.

CODE STATUS: DNR/DNI/DNH
CONTACT:  ___ (daughter) ___

DIscharge planning took > 30 minutes with discussing with family 
and arranging discharge plans.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation
1. Rivaroxaban 20 mg PO DAILY 
2. Senna 8.6 mg PO BID 

 
Discharge Medications:
1.  Cyanocobalamin 250 mcg PO DAILY  
2.  Docusate Sodium 100 mg PO BID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Acute myeloid leukemia
Neutropenia 
macrocytic Anemia
Advanced Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for low blood counts and you were found to 
have Acute Myeloid Leukemia.  

This is a very aggressive disease. The team had extensive 
discussions with your family and the oncology team. Because of 
your dementia, it is not recommended to pursue aggressive 
chemotherapy as this would not be beneficial and would cause 
more harm than good. 

Goals of care include keeping you comfortable and pain free.
 
Followup Instructions:
___